US03936470
A mixture of 13.6 parts of 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone, 12 parts of 3-(2,5-dimethylphenoxy)-1,2-propanediol, 3 parts of 4-methylbenzenesulfonic acid, 80 parts of butanol and 180 parts of benzene is stirred and refluxed for 24 hours with water-separator. The reaction mixture is evaporated and the residue is dissolved in trichloromethane. The solution is stirred with silicagel for 30 minutes. The latter is filtered off and the filtrate is evaporated, yielding A + B 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-(2,5-dimethylphenoxymethyl)-1,3-dioxolane as a residue.

reactant | 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 3-(2,5-dimethylphenoxy)-1,2-propanediol | CC1=C(OCC(CO)O)C=C(C=C1)C | C11H16O3
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-(2,5-dimethylphenoxymethyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=C(C=CC(=C1)C)C)C1=C(C=C(C=C1)Cl)Cl | C19H19BrCl2O3
